US06716863B2
(iii) (2R)-3-(1H-imidazol-2-yl)-1,2-propanediol
To a solution of (2R)-1-(benzyloxy)-3-(1H-imidazol-2-yl)-2-propanol (424 mg) in methanol (10 ml), 10% palladium carbon (50% hydrated, 85 mg) was added, followed by stirring at 50-60° C. in a hydrogen atmosphere for 2 days. The catalyst was filtered off; the filtrate was concentrated to yield the titled compound (254 mg) as a white solid.

reactant | (2R)-1-(benzyloxy)-3-(1H-imidazol-2-yl)-2-propanol | 424 mg | C(C1=CC=CC=C1)OC[C@@H](CC=1NC=CN1)O | C13H16N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium carbon | 85 mg | [C].[Pd]
product | (2R)-3-(1H-imidazol-2-yl)-1,2-propanediol | 254 mg | N1C(=NC=C1)C[C@H](CO)O | C6H10N2O2
